US08183275B2
A mixture of 4-(2-pyridyl)benzaldehyde (6.0 g, 32.8 mmol), (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide (18.3 g, 42.6 mmol), tris[2-(2-methoxyethoxy)ethyl]amine (13.76 g, 42.6 mmol), dichloromethane (200 mL) and saturated potassium carbonate (200 mL) was heated to reflux overnight. The reaction was cooled to rt and the product was extracted with ethyl acetate-hexanes (2×). The extracts were washed with water and brine, and concentrated to afford 2-{4-[2-(1,3-dioxolan-2-yl)vinyl]-phenyl)pyridine, which was dissolved in methanol (120 mL) and was stirred with Pd on carbon (10%, 1.75 g) under 1 atmosphere of hydrogen overnight. The reaction mixture was filtered through Celite, and the filtrate was concentrated to afford crude 2-{4-[2-(1,3-dioxolan-2-yl)ethyl]phenyl}pyridine, which was dissolved in acetone (80 mL) and treated with 4 M HCl (aq., 80 mL). After stirring at rt for 20 h, the product was extracted with ethyl acetate-hexanes (2×). The extracts were washed with water and brine, and concentrated, and the residue was purified on silica gel eluted with a 5-100% ethyl acetate in hexanes to afford the title compound.

reactant | 4-(2-pyridyl)benzaldehyde | 32.8 mmol, 6.0 g | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide | 42.6 mmol, 18.3 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 42.6 mmol, 13.76 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | potassium carbonate | 200 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-{4-[2-(1,3-dioxolan-2-yl)vinyl]-phenyl)pyridine | O1C(OCC1)C=CC1=CC=C(C=C1)C1=NC=CC=C1 | C16H15NO2
